US07642249B2
A solution of 4,6-dichloro-2-methoxypyrimidine (0.7 g), 2,4-dichlorophenethylamine (0.82 g) and sodium bicarbonate (0.88 g) in ethanol (25 mL) is heated at 80° C. for three hours and poured into water (400 mL). The resulting solid is filtered and air dried to afford (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine.

reactant | 4,6-dichloro-2-methoxypyrimidine | 0.7 g | ClC1=NC(=NC(=C1)Cl)OC | C5H4Cl2N2O
reactant | 2,4-dichlorophenethylamine | 0.82 g | ClC1=C(CCN)C=CC(=C1)Cl | C8H9Cl2N
reactant | sodium bicarbonate | 0.88 g | C([O-])(O)=O.[Na+]
reactant | water | 400 mL | O | H2O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine | ClC1=CC(=NC(=N1)OC)NCCC1=C(C=C(C=C1)Cl)Cl | C13H12Cl3N3O
